US04069343
Slow addition of 4.98 g. (0.03 mole) of 6-amino-o-anisamide to a mixture of 57% NaH (1.32 g., 0.0315 mole) in 50 ml. dimethylformamide was carried out at room temperature. After the evolution of H2 ceased, the mixture was cooled to 3° C. and 2.06 ml. (0.033 mole) of methyliodide was slowly added at 3°-5° C. The temperature was allowed to go up to room temperature and stir for 2 hours. The mixture was concentrated, the residue extracted into ethyl acetate-water, the mixture was basified, and the ethyl acetate layer was washed with water, brine and dried. Concentration gave a tan solid that was crystallized (ethanol), giving 0.45 g (8%) Of 6-amino-N-methyl-o-anisamide m.p. 186°-189° C.

reactant | 6-amino-o-anisamide | 0.03 mole | NC=1C=CC=C(C1C(=O)N)OC | C8H10N2O2
reactant | NaH | 0.0315 mole, 1.32 g | [H-].[Na+]
reactant | methyliodide | 0.033 mole | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-amino-N-methyl-o-anisamide | 0.45 g, 8% | NC=1C=CC=C(C1C(=O)NC)OC | C9H12N2O2
